US09388176B2
4-(3-Oxopyrrolidin-1-yl)-pyridine-2-carboxylic acid phenylamide
A solution of 4-(3-Hydroxypyrrolidin-1-yl)-pyridine-2-carboxylic acid phenylamide (259 mg, 0.92 mmol) in dichloromethane (5 mL) and dimethylsulfoxide (2.5 mL) was cooled in an ice bath. Diisopropylethylamine (0.48 mL, 2.8 mmol) was added and stirred for 5 minutes. A solution of sulfur trioxide-pyridine complex (0.44 g, 2.8 mmol) in DMSO (2.5 mL) was added dropwise. The reaction was stirred at 0° C. for 3 hours. To the reaction was added 1 M hydrochloric acid (6 mL) and chloroform. The layers were separated. The aqueous layer was treated with saturated aqueous sodium bicarbonate until pH=6. Extraction twice with chloroform gave a crude residue. Purification by chromatography on silica gel (12 g) eluted with chloroform:methanol 39:1 gave the title compound (133 mg, 0.46 mmol, 50%).

reactant | 4-(3-Hydroxypyrrolidin-1-yl)-pyridine-2-carboxylic acid phenylamide | 0.92 mmol, 259 mg | C1(=CC=CC=C1)NC(=O)C1=NC=CC(=C1)N1CC(CC1)O | C16H17N3O2
reactant | Diisopropylethylamine | 2.8 mmol, 0.48 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | hydrochloric acid | 1 M, 6 mL | Cl | ClH
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dimethylsulfoxide | 2.5 mL | CS(=O)C | C2H6OS
solvent | DMSO | 2.5 mL | CS(=O)C | C2H6OS
product | 4-(3-Oxopyrrolidin-1-yl)-pyridine-2-carboxylic acid phenylamide | 0.46 mmol, 133 mg, 50% | C1(=CC=CC=C1)NC(=O)C1=NC=CC(=C1)N1CC(CC1)=O | C16H15N3O2
